US04284644
A mixture of 7-aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (1.75 g.) and ethylbromide (5.45 g.) and sodium hydrogen carbonate (1.68 g.) in N,N-dimethylformamide (50 ml.) was heated at 100° C. for 4 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water and dried, then the solvent was evaporated off. The residue was subjected to column-chromatography on silica-gel. The first fraction eluted with hexane-ethyl acetate (97:3) was recrystallized from ethanol to give 7-diethylaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (0.801 g.) as yellow needles melting at 39.3° C.

reactant | 7-aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 1.75 g | NC1=CC=CC2=C1OC1(CC1)C2=O | C10H9NO2
reactant | ethylbromide | 5.45 g | C(C)Br | C2H5Br
reactant | sodium hydrogen carbonate | 1.68 g | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-diethylaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 0.801 g | C(C)N(C1=CC=CC2=C1OC1(CC1)C2=O)CC | C14H17NO2
